US07229999B2
6-Cyclopropylmethoxy-5-(4-fluoro-phenyl)-nicotinic acid
5-Bromo-6-cyclopropylmethoxy-nicotinic acid (2.28 g, 8 mmol) was dissolved in a mixture of toluene (40 mL) and dimethylformamide (4 mL). To this solution was added [4-fluoro-phenyl]-boronic acid (1.2 g, 8 mmol), [1,1′-bis(diphenylphosphino)-ferrocene]-dichloropalladium(II) dichloro-methane complex (307 mg), and 2 N sodium carbonate solution (33 mL). The whole mixture was heated with stirring at 90° C. for 4 h, cooled to room temperature and filtered. Phases were separated; the organic phase was discarded and the water phase was acidified with 1 N hydrochloric acid (pH 2) and extracted with ethylacetate. Etylacetate phases were pooled, dried with Na2SO4 and filtered over a small silica gel pad (20 g). The solvent was removed to yield a solid which was stirred with heptane (200 mL), filtered, washed with heptane and dried to yield 1.77 g of the title compound as beige solid, MS (ISP) 286.0 (M−H)−.

reactant | 5-Bromo-6-cyclopropylmethoxy-nicotinic acid | 8 mmol, 2.28 g | BrC=1C(=NC=C(C(=O)O)C1)OCC1CC1 | C10H10BrNO3
reactant | [4-fluoro-phenyl]-boronic acid | 8 mmol, 1.2 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 2 N, 33 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | heptane | 200 mL | CCCCCCC | C7H16
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 6-Cyclopropylmethoxy-5-(4-fluoro-phenyl)-nicotinic acid | 1.77 g | C1(CC1)COC1=NC=C(C(=O)O)C=C1C1=CC=C(C=C1)F | C16H14FNO3
